US07151097B2
Preparation of 1-(4-Chlorophenyl)-2-(2-chlorophenyl)-5,6,7,7a,8,9-hexahydro-2H-2,3,4a,9-tetraazacyclopenta[f]azulen-4-one (4A-1)
Diisopropylethylamine (250 microliters, 2 mmol) was added to a mixture of 1-(2-chlorophenyl)-5-(4-chlorophenyl)-4-[(pyrrolidin-2-ylmethyl)-amino]-1H-pyrazole-3-carboxylic acid (I-5b, 160 mg, 0.37 mmol) and HATU (380 mg, 1 mmol) in DMF (50 ml) at room temperature. The reaction mixture was stirred for 5 hours, quenched with saturated aqueous NaCl, and extracted twice with EtOAc. The combined organic extracts were washed with 0.5 M citric acid, 1 M K2CO3, and saturated aqueous NaCl, dried, and concentrated in vacuo. The residue was slurried in CH2Cl2 and the solvent decanted, a process repeated once more with EtOAc. The combined organic solutions were concentrated under vacuum and the residue was purified on a chromatogram using 4 mm plates and a solvent gradient of 10:1 EtOAc/MeOH to 5:1 EtOAc/MeOH to give 4A-1 as a white solid (46 mg): +ES MS (M+1) 413.4; 1H NMR (CD3OD) δ 7.58 (bs, 1H), 7.52–7.44 (m, 3H), 7.34 (d, 2H, J=7.6 Hz), 7.22 (d, 2H, J=7.6 Hz), 3.93–3.82 (m, 2H), 3.64–3.50 (m, 2H), 3.10–2.99 (m,1 H), 2.38–2.29 (m,1 H), 2.04–1.96 (m, 1H), 1.95–1.74 (m, 2H).

reactant | Diisopropylethylamine | 2 mmol, 250 microliters | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-(2-chlorophenyl)-5-(4-chlorophenyl)-4-[(pyrrolidin-2-ylmethyl)-amino]-1H-pyrazole-3-carboxylic acid | 0.37 mmol, 160 mg | ClC1=C(C=CC=C1)N1N=C(C(=C1C1=CC=C(C=C1)Cl)NCC1NCCC1)C(=O)O | C21H20Cl2N4O2
reactant | HATU | 1 mmol, 380 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 1-(4-Chlorophenyl)-2-(2-chlorophenyl)-5,6,7,7a,8,9-hexahydro-2H-2,3,4a,9-tetraazacyclopenta[f]azulen-4-one | 46 mg | ClC1=CC=C(C=C1)C=1N(N=C2C(N3C(CNC12)CCC3)=O)C3=C(C=CC=C3)Cl | C21H18Cl2N4O
